US05438052
2-(Hydroxymethyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7(4H)-one (U.S. Pat. No. 2,835,581) (1.8 g) is suspended in 5 ml of dimethylformamide, treated with 0.45 ml of phosphorus tribromide at 0° C. and stirred at this temperature for 1/2 hour. The dimethylformamide is evaporated in a high vacuum and the residue is digested with ice-cold water. The resulting precipitate is filtered off under suction and dried in a high vacuum (40° C.). There are obtained 1.97 g of 2-bromomethyl-5-methyl[1.2.4]triazolo[1,5-a]pyrimidin-7-ol as white crystals of melting point 217°-222° C.

reactant | 2-(Hydroxymethyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7(4H)-one | OCC1=NN2C(NC(=CC2=O)C)=N1 | C7H8N4O2
reactant | phosphorus tribromide | 0.45 ml | P(Br)(Br)Br | Br3P
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-bromomethyl-5-methyl[1.2.4]triazolo[1,5-a]pyrimidin-7-ol | 1.97 g | BrCC1=NN2C(N=C(C=C2O)C)=N1 | C7H7BrN4O
